US05589492
Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(4-methylphenylthio)propanoate
ρ-Thiocresol (0.43 g) was added slowly to an ice-cooled, stirred suspension of sodium hydride (60% dispersion in oil, 0.14 g) in dry N, N-dimethylformamide (23 mL,) under N2. The mixture was allowed to warm to room temperature over 30 minutes prior to the addition of a solution of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate (1.31 g) in dry N,N-dimethylformamide (16 mL) and the mixture was then left stirring at room temperature for a further 12 hrs. The reaction mixture was diluted with water (375 mL) before extracting with ethyl acetate (3×100 mL). The combined ethyl acetate layers were washed with water (3×100 mL), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel using 60% hexane in ethyl acetate as eluent to afford the title compound which solidified on standing, mp 88.6°-90.1° C.

reactant | ρ-Thiocresol | 0.43 g | CC1=CC=C(C=C1)S | C7H8S
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate | 1.31 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)Cl | C20H21ClN2O4
solvent | N, N-dimethylformamide | 23 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
solvent | water | 375 mL | O | H2O
product | Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(4-methylphenylthio)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)SC2=CC=C(C=C2)C | C27H28N2O4S
